US08048909B2
Ethyl 2-acetyl-3-methyl-4-oxo-4-phenylbutanoate
Using ethyl 3-oxobutanoate (12.2 g), sodium hydride (60% in oil, 4.24 g) and 2-bromopropiophenone (22.0 g), a procedure as in Reference Example 13 was performed to give the title compound as a brown oil (yield 22.1 g, 90%).

reactant | ethyl 3-oxobutanoate | 12.2 g | O=C(CC(=O)OCC)C | C6H10O3
reactant | sodium hydride | 4.24 g | [H-].[Na+]
reactant | 2-bromopropiophenone | 22.0 g | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
product | Ethyl 2-acetyl-3-methyl-4-oxo-4-phenylbutanoate | yield 22.1 g, 90% | C(C)(=O)C(C(=O)OCC)C(C(C1=CC=CC=C1)=O)C | C15H18O4
